US07517880B2
To a solution of 5-amino-3-tert-butylisoxazole (0.100 g) in anh toluene (5 mL) was added 4-chloro-3-(trifluoromethyl)phenyl isocyanate (0.395 g). The reaction vessel was sealed, heated at 85° C. for 24 h, and cooled to room temp. The reaction mixture was added to a slurry of Dowex® 50WX2-100 resin (0.5 g) in CH2Cl2 (40 mL), and the resulting mixture was stirred vigorously for 72 h. The mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (gradient form 100% CH2Cl2 to 5% MeOH/95% CH2Cl2) to give bis(4-chloro-3-(trifluoromethyl)phenyl)urea followed by N-(3-tert-butyl-5-isoxazolyl)-N′-(4-chloro-3-(trifluoromethyl)phenyl)urea. The residue from the symmetrical urea fractions was triturated (Et2O/hexane) to give the urea as a white solid (0.110 g): TLC (3% MeOH/97% CH2Cl2) Rf 0.55; FAB-MS m/z 417 ((M+H)+). C. Urea Interconversions and Misc. Reactions C1. General Method for Alkylation of Hydroxyphenyl Ureas

reactant | 5-amino-3-tert-butylisoxazole | 0.100 g | NC1=CC(=NO1)C(C)(C)C | C7H12N2O
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | 0.395 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
reactant | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | bis(4-chloro-3-(trifluoromethyl)phenyl)urea | ClC1=C(C=C(C=C1)NC(NC1=CC(=C(C=C1)Cl)C(F)(F)F)=O)C(F)(F)F | C15H8Cl2F6N2O
